US07906517B2
To tert-butyl 4-{2-[(3,5-dichloro-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate (180 mg) is added 4N-hydrochloric acid/dioxane solution (2 ml) and the mixture is stirred at room temperature for 4 hours. To the reaction mixture is added a saturated brine, and the mixture is extracted with ethyl acetate. The organic layer is washed with a saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The resulting residue is purified by silica gel column chromatography (chloroform:methanol=1:0→19:1) to give 4-{2-[(3,5-dichlorobenzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid (136 mg). MS (m/z): 664/662 [M+H]+

reactant | tert-butyl 4-{2-[(3,5-dichloro-benzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyrate | 180 mg | ClC=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)OC(C)(C)C)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)Cl | C37H40Cl2F3N3O4
reactant | hydrochloric acid dioxane | 2 ml | Cl.O1CCOCC1
solvent | brine | [Cl-].[Na+].O
product | 4-{2-[(3,5-dichlorobenzyl)-(5′-isopropyl-2′-methoxy-4-trifluoromethyl-biphenyl-2-ylmethyl)-amino]-pyrimidin-5-yloxy}-butyric acid | 136 mg | ClC=1C=C(CN(C2=NC=C(C=N2)OCCCC(=O)O)CC2=C(C=CC(=C2)C(F)(F)F)C2=C(C=CC(=C2)C(C)C)OC)C=C(C1)Cl | C33H32Cl2F3N3O4
